US05668128
In substantially the same manner as Working Example 2, N-methyl-1-naphthalenemethylamine (877 μl) was condensed with Boc-(O-benzyl)-L-tyrosine (2.00 g) to give N-[Boc-(O-benzyl)-L-tyrosyl]-N-methyl-1-naphthalenemethylamine (2.60 g) as a white powdery product (yield 92%). The Boc group of the product was deprotected by using TFA, and 2.02 g of thus-obtained compound was condensed, in substantially the same manner as Working Example 2, with Compound 1 (1.40 g) to give N-[N-[(2S,3S)-N-Z-3-ethoxycarbonylaziridine-2-carbonyl]-(O-benzyl)-L-tyrosyl]-N-methyl-1-naphthalenemethylamine (1.73 g) as a white powdery product (yield 52%). This compound was subjected to catalytic reduciton to thereby deprotect the Z group and benzyl group in substantially the same manner as Working Example 3 to give the above-titled compound (compound 133; 580 mg) as white crystals (yield 53%).

reactant | N-methyl-1-naphthalenemethylamine | 877 μl | CNCC1=CC=CC2=CC=CC=C12 | C12H13N
reactant | Boc-(O-benzyl)-L-tyrosine | 2.00 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
product | N-[Boc-(O-benzyl)-L-tyrosyl]-N-methyl-1-naphthalenemethylamine | 2.60 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N(CC1=CC=CC2=CC=CC=C12)C | C33H36N2O4
